US05075474
A 200 ml volume glass flask equipped with a stirring machine, a condenser, a distillation column and a tube for distilling off the resulting product was provided. 73 g of octamethyl cyclotetrasilazane and 3.65 g of p-toluidine-m-sulfonic acid as a catalyst were introduced into the glass flask and the content of the flask was heated to 97° C. The content of the flask was stirred after it was confirmed that the octamethyl cyclotetrasilazane was completely molten. When the internal pressure of the reaction system was reduced to 65 torr with a vacuum pump to obtain a distillate, 68 g of hexamethyl cyclotrisilazane was obtained through the distillation over one hour. The resulting hexamethyl cyclotrisilazane had a high purity in the order of 99.1 GC % and the yield thereof was 93.2%. Thus, highly pure hexamethyl cyclotrisilazane could be obtained at a high yield within a short period of time. Moreover, almost no high boiling point substance remained in the reaction system.

reactant | octamethyl cyclotetrasilazane | C[Si]1(N[Si](N[Si](N[Si](N1)(C)C)(C)C)(C)C)C | C8H28N4Si4
catalyst | octamethyl cyclotetrasilazane | 73 g | C[Si]1(N[Si](N[Si](N[Si](N1)(C)C)(C)C)(C)C)C | C8H28N4Si4
catalyst | p-toluidine-m-sulfonic acid | 3.65 g | NC1=CC(=C(C=C1)C)S(=O)(=O)O | C7H9NO3S
product | hexamethyl cyclotrisilazane | 68 g | C[Si]1(N[Si](N[Si](N1)(C)C)(C)C)C | C6H21N3Si3
